US05292740
In analogy to Example 1, paragraph d), dimethyl (2-chloro-5-methoxy-phenoxy)malonate was condensed with acetamidine hydrochloride to give (2-chloro-5-methoxy-phenoxy)-2-methyl-6-hydroxy-4(3H)-pyrimidinone. Therefrom in analogy to Example 1, paragraph e), there was obtained 4,6-dichloro-5-(2-chloro-5-methoxy-phenoxy)-2-methyl-pyrimidine, m.p. 125°-130° C., and therefrom in analogy to Example 1, paragraph f), there was obtained 4-tert-butyl-N-[6-chloro-5-(2-chloro-5-methoxyphenoxy)-2-methyl-pyrimidin-4-yl]-benzenesulfonamide, m.p. 182° C. (from MeOH).

reactant | dimethyl (2-chloro-5-methoxy-phenoxy)malonate | ClC1=C(OC(C(=O)OC)C(=O)OC)C=C(C=C1)OC | C12H13ClO6
reactant | acetamidine hydrochloride | Cl.C(C)(=N)N
product | (2-chloro-5-methoxy-phenoxy)-2-methyl-6-hydroxy-4(3H)-pyrimidinone | ClC1=C(ON2C(=NC(=CC2=O)O)C)C=C(C=C1)OC | C12H11ClN2O4
